US07186729B2
Step 1: 4-(2-Cyano-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 2-piperazin-1-yl-benzonitrile (1.1 g, 5.87 mmol) in dichloromethane (10 mL) was added diisopropylethylamine (3.1 mL, 17.62 mmol) followed by di-tert-butyl-dicarbonate (1.28 g, 5.87 mmol) and reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was concentrated in vacuo, dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate solution. The aqueous layer was back extracted twice with ethyl acetate. The organic layers were combined, dried over sodium sulfate and concentrated in vacuo. The crude product was purified using a short plug of silica gel using hexane/ethyl acetate (50%) 1H-NMR (CDCL3) δ: 1.47 (9H, s), 3.12–3.16 (4H, m), 3.61–3.65 (4H, m), 6.90–7.05 (2H, m), 7.47–7.70 (2H, m). ESI-MS m/z: 288 (M+1), UV retention time: 2.75 min.

reactant | 2-piperazin-1-yl-benzonitrile | 5.87 mmol, 1.1 g | N1(CCNCC1)C1=C(C#N)C=CC=C1 | C11H13N3
reactant | diisopropylethylamine | 17.62 mmol, 3.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl-dicarbonate | 5.87 mmol, 1.28 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(2-Cyano-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N | C16H21N3O2
